US07375087B2
4-Bromo-2-methylbenzyl alcohol
To a solution of 4-bromo-2-methylbenzoic acid (10 g) in tetrahydrofuran (60 mL) was added borane-dimethylsulfide complex (7.07 g) under ice-cooling. The reaction mixture was stirred at room temperature for 5 minutes, and stirred at 75° C. for 2 days. The reaction mixture was cooled to room temperature. A saturated aqueous potassium carbonate solution was added to the reaction mixture, and the organic layer was separated. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (9.0 g).

reactant | 4-bromo-2-methylbenzoic acid | 10 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-Bromo-2-methylbenzyl alcohol | 9.0 g | BrC1=CC(=C(CO)C=C1)C | C8H9BrO
